US04710221
Methanolic sodium methoxide (4.9M, 22.4 mL, 0.11 mol) was added via syringe to a solution of methyl 2-[(dimethylamino)carbonylthio]-4-ethoxybenzoate (crude, ca. 28.3 g, 0.10 mol) in methanol (100 mL) under nitrogen. The reaction mixture was heated at reflux for 30 minutes, then cooled with the aid of a water bath. Rotary evaporation yielded a solid. This was partitioned between dichloromethane (100 mL) and water (100 mL). The aqueous layer was washed with dichloromethane (3×40 mL), acidified to pH <1 with concentrated hydrochloric acid, and then extracted with dichloromethane (3×40 mL). These dichloromethane extracts were combined, dried (Na2SO4), and filtered. Rotary evaporation yielded methyl 4-ethoxy-2-mercaptobenzoate as an oil (18.4 g) that on standing formed a crystalline solid melting at 42°-44° C. PMR (CDCl3, 200 MHz): 67 7.97 (d, 1H, H ortho to CO2CH3); 6.78 (d, 1H, H ortho to SH); 6.64 (dd, 1H, H para to SH); 5.06 (s, 1H, SH); 4.05 (q, 2H, OCH2CH3); 3.88 (s, 3H, CO2CH3); 1.42 (t, 3H, OCH 2 CH3). IR (Nujol): 1686 (vs. C=O) cm-1.

reactant | sodium methoxide | 0.11 mol, 4.9M, 22.4 mL | C[O-].[Na+]
reactant | methyl 2-[(dimethylamino)carbonylthio]-4-ethoxybenzoate | 0.10 mol, ca. 28.3 g | CN(C(=O)SC1=C(C(=O)OC)C=CC(=C1)OCC)C | C13H17NO4S
solvent | methanol | 100 mL | CO | CH4O
product | methyl 4-ethoxy-2-mercaptobenzoate | 18.4 g | C(C)OC1=CC(=C(C(=O)OC)C=C1)S | C10H12O3S
